* source HV-POWER-SUPPLY
C_C1         0 N33636  680u  TC=0,0 
C_C2         0 N33636  100n  TC=0,0 
R_R21         N33628 N33632  1k TC=0,0 
X_M1         N33636 N34194 N34183 IRF840
D_D1         N34183 N34194 BZX84C15/ZTX 
R_R23         N34227 N34194  3.9k TC=0,0 
R_R24         N34207 N34194  220 TC=0,0 
C_C3         N34207 N34227  33u  TC=0,0 
I_I1         N33632 N35161 DC 0.58mAdc  
R_R25         N34855 0  348k TC=0,0 
R_R26         N35161 N34855  750 TC=0,0 
R_R27         N40911 N34855  100 TC=0,0 
R_R28         N43953 N34183  22 TC=0,0 
D_D9         N34855 N33747 MBR150RL
D_D10         N33747 N34855 MBR150RL
X_M3         N33636 N33628 N33632 BSP135_L1 PARAMS:    
D_D13         N33747 N33628 BZX84C5V6/ZTX 
C_C5         0 N37286  1u  TC=0,0 
R_R29         N33747 N37286  2.2 TC=0,0 
R_R22         N33747 0  10k TC=0,0 
C_C6         0 N33747  200n  TC=0,0 
X_U1         N40911 N33747 N33632 N33747 N34227 AD8031
V_V2         N33636 0  AC 1V
+SIN 350V 10V 100Hz 0 0 0
R_R30         N33747 0  50k TC=0,0 
X_U3         N33636 N33636 Sw_tClose PARAMS: tClose=0ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U4         N33747 N33747 Sw_tClose PARAMS: tClose=10ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
Q_Q2         N34194 N438740 N43953 BC850C 
R_R31         N438740 N34183  1k TC=0,0 
D_D14         0 N33747 D1N4007 
R_R32         N33747 N43953  6.8 TC=0,0 
Q_Q3         N44747 N44756 N33747 BC850C 
Q_Q4         N44756 N44747 N33628 BC860C 
R_R33         N33628 N44747  1.2k TC=0,0 
C_C7         N33747 N44756  10u  TC=0,0 
R_R34         N44756 N34183  33k TC=0,0 
R_R35         N33747 N34183  16 TC=0,0 
